US04340740
3-Carboxybenzyne prepared from 2-chlorobenzoic acid in the presence of a strong base is reacted with propionitrile to produce alpha-(m-carboxyphenyl)propionitrile (R. Biehl et al., J. Org. Chem., 31, 602 (1966)). The alpha-(m-carboxyphenyl)propionitrile is converted to alpha-(m-chlorocarbonylphenyl)propionitrile by using thionyl chloride. Friedel-Crafts reaction of alpha-(m-chlorocarbonylphenyl)propionitrile with benzene using aluminum chloride affords alpha-(m-benzoylphenyl)propionitrile. Hydrolysis of the alpha-(m-benzoylphenyl)propionitrile with methanol/sodium hydroxide gives alpha-(m-benzoylphenyl)propionic acid (see British Pat. No. 1,360,560).

reactant | alpha-(m-carboxyphenyl)propionitrile | C(=O)(O)C=1C=C(C=CC1)C(C#N)C | C10H9NO2
reactant | alpha-(m-chlorocarbonylphenyl)propionitrile | ClC(=O)C=1C=C(C=CC1)C(C#N)C | C10H8ClNO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | alpha-(m-benzoylphenyl)propionitrile | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C#N)C | C16H13NO
